### PR TITLE
Fixing the nat_le_sum error

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

File: theories/VLSM/Lib/StdppExtras.v [hunk 1]
```diff
@@ -322,14 +322,17 @@ Proof.
       * by apply IHl; intro n; apply (H (S n)).
 Qed.
 
+Lemma stdpp_nat_le_sum (x y : nat) : x ≤ y ↔ ∃ z, y = x + z.
+  Proof. split; [exists (y - x); lia | intros [z ->]; lia]. Qed.
+
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppExtras.v:327]: Minor nitpick.
```suggestion
Lemma stdpp_nat_le_sum (x y : nat) : x <= y <-> exists z, y = x + z.
Proof. split; [exists (y - x); lia | intros [z ->]; lia]. Qed.

```

**Review by palmskog — APPROVED** [review]
